US04642313
12.0 g of ethyl 3-isobutyrylamino-3-(2-furylcarbonyl)propionate, 60 ml of chloroform and 32.7 g of phosphorus oxychloride are treated in the same manner as described in Example 2. 10.0 g of ethyl 2-[2-isopropyl-5-(2-furyl)-4-oxazolyl]acetate are thereby obtained as an oil. Yield: 89.2%

reactant | ethyl 3-isobutyrylamino-3-(2-furylcarbonyl)propionate | 12.0 g | C(C(C)C)(=O)NC(CC(=O)OCC)C(=O)C=1OC=CC1 | C14H19NO5
reactant | phosphorus oxychloride | 32.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[2-isopropyl-5-(2-furyl)-4-oxazolyl]acetate | 10.0 g, Yield: 89.2% | C(C)(C)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C14H17NO4
